US09415047B2
6-cyano-benzotriazole (14.4 g, 0.10 mol) is dissolved into 100 ml of 30% wt. sodium hydroxide, 4-chlorobromobutane (34.3 g, 0.20 mol), tetrabutyl ammonium bromide (0.8 g) are added, and mixed for 5 min. The reaction solution is gradually heated to 60° C., stirred for reaction for 2 hours. Then the reaction solution was cooled down to ambient temperature, 100 ml of dichloromethane was added for extraction and liquid separation. To the aqueous phase, 100 of dichloromethane was added for extraction. Organic phases were mixed, washed with 100 ml of saturated saline. Liquid was separated, and organic phase was evaporated to dryness to produce oily product. Oily products were separated and purified by chromatography with neutral Al2O3, and eluted with dichlormethane to produce 17.8 g of 6-cyano-1-(4-chlorobutyl)-1H-benzotriazole, with a yield of 76.0%.

reactant | 6-cyano-benzotriazole | 0.10 mol, 14.4 g | C(#N)C=1C=CC2=C(NN=N2)C1 | C7H4N4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobromobutane | 0.20 mol, 34.3 g | ClCCCCBr | C4H8BrCl
catalyst | tetrabutyl ammonium bromide | 0.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-cyano-1-(4-chlorobutyl)-1H-benzotriazole | 17.8 g, yield of 76.0% | C(#N)C=1C=CC2=C(N(N=N2)CCCCCl)C1 | C11H11ClN4
